US08183239B2
4-Methyl-pentanoic acid {4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-amide
A solution of 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N-ethyl-2-phenyl-acetamide (44 mg, 0.12 mmol) in DCM (2 mL) was treated with 4-methylvaleroyl chloride (20 mg, 0.15 mmol) followed by TEA (21 μL, 0.15 mmol). After 16 h, the mixture was purified directly by PTLC to give a beige solid (53 mg, 94%). MS (ESI): mass calcd. for C26H35FN4O2, 454.59; m/z found, 455.5 [M+H]+. 1H NMR (CDCl3): 7.38-7.28 (m, 5H), 7.10-7.04 (m, 2H), δ 7.00 (br s, 1H), 6.86 (t, J=9.0, 1H), 3.88 (s, 1H), 3.40-3.31 (m, 3H), 3.07-3.06 (m, 4H), 2.61-2.57 (m, 4H), 2.34-2.31 (m, 3H), 1.62-1.59 (m, 2H), 1.16 (t, J=7.2, 3H), 0.93 (d, J=6.1, 6H).

reactant | 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N-ethyl-2-phenyl-acetamide | 0.12 mmol, 44 mg | NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)NCC)C1=CC=CC=C1)F | C20H25FN4O
reactant | 4-methylvaleroyl chloride | 0.15 mmol, 20 mg | CC(CCC(=O)Cl)C | C6H11ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-Methyl-pentanoic acid {4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-amide | 53 mg, 94% | C(C)NC(=O)C(N1CCN(CC1)C1=C(C=C(C=C1)NC(CCC(C)C)=O)F)C1=CC=CC=C1 | C26H35FN4O2
